US05399689
5.4 g of 1-chloro-4-[trans-4-(5-methoxy-2-pentenyl)cyclohexyl]benzene are dissolved in 80 ml of ethyl acetate in an autoclave, treated with 1 g of Raney nickel and hydrogenated for 7 hours at 60° C. and 5 kg/cm2. The suspension is filtered and evaporated. The residue (5.2 g) is crystallized twice from 30 ml of ethanol each time and gives 3.4 g of 1-chloro-4-[trans-4-(5-methoxypentyl)cyclohexyl]benzene; m.p. (C--I) 52.8° C.

reactant | 1-chloro-4-[trans-4-(5-methoxy-2-pentenyl)cyclohexyl]benzene | 5.4 g | ClC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CC=CCCOC | C18H25ClO
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
catalyst | Raney nickel | 1 g | [Ni] | Ni
product | 1-chloro-4-[trans-4-(5-methoxypentyl)cyclohexyl]benzene | 3.4 g | ClC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCCOC | C18H27ClO
